US08012966B2
N-{5-Fluoro-3-[3-methyl-4-oxo-5-(2-piperidin-1-yl-ethyl)-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridin-2-ylmethylene]-2-oxo-2,3-dihydro-1H-indol-6-yl}-2-methoxy-acetamide
The title compound was prepared under the same conditions as described in Example 25 with 3-methyl-4-oxo-5-(2-piperidin-1-yl-ethyl)-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine-2-carbaldehyde and N-(5-fluoro-2-oxo-2,3-dihydro-1H-indol-6-yl)-2-methoxy-acetamide as starting materials to give N-{5-fluoro-3-[3-methyl-4-oxo-5-(2-piperidin-1-yl-ethyl)-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridin-2-ylmethylene]-2-oxo-2,3-dihydro-1H-indol-6-yl}-2-methoxy-acetamide (55 mg, 55.0%) as a brown solid.

reactant | 3-methyl-4-oxo-5-(2-piperidin-1-yl-ethyl)-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine-2-carbaldehyde | CC1=C(NC2=C1C(N(CC2)CCN2CCCCC2)=O)C=O | C16H23N3O2
reactant | N-(5-fluoro-2-oxo-2,3-dihydro-1H-indol-6-yl)-2-methoxy-acetamide | FC=1C=C2CC(NC2=CC1NC(COC)=O)=O | C11H11FN2O3
product | N-{5-fluoro-3-[3-methyl-4-oxo-5-(2-piperidin-1-yl-ethyl)-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridin-2-ylmethylene]-2-oxo-2,3-dihydro-1H-indol-6-yl}-2-methoxy-acetamide | 55 mg, 55.0% | FC=1C=C2C(C(NC2=CC1NC(COC)=O)=O)=CC1=C(C=2C(N(CCC2N1)CCN1CCCCC1)=O)C | C27H32FN5O4
